US05744614
326.7 parts (2 mol) of sulfuric acid were initiially introduced into the stirring flask. 37.5 parts (0.75 mol) of hydrazine hydrate, 100 parts (0.75 mol) of 4-methylacetophenone, 105 parts (0.75 mol) of 4-chlorobenzaldehyde and 1 part (0.0067 mol) of sodium iodide were meteredin in succession at room temperature. The reaction mixture was brought to 140° C. by distilling off water and kept at 140° C. for 2.5 hours. 140 parts of water were distilled off. The mixture was diluted with500 parts of water and neutralized with 500 parts (12.5 mol) of 20% strength by weight sodium hydroxide solution. After filtering off the solid it was washed until sulfate-free and dried. 189 parts of 3-(4-chlorophenyl)-5-(4-methylphenyl)pyrazole having a purity of 98% (HPLC) were obtained, which corresponds to a yield of 92% of theory. M.p.:228° C.

reactant | sulfuric acid | 2 mol | S(O)(O)(=O)=O | H2O4S
reactant | hydrazine hydrate | 0.75 mol | O.NN
reactant | 4-methylacetophenone | 0.75 mol | CC1=CC=C(C=C1)C(=O)C | C9H10O
reactant | 4-chlorobenzaldehyde | 0.75 mol | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | sodium iodide | 0.0067 mol | [I-].[Na+]
product | 3-(4-chlorophenyl)-5-(4-methylphenyl)pyrazole | yield of 92% | ClC1=CC=C(C=C1)C1=NNC(=C1)C1=CC=C(C=C1)C | C16H13ClN2
